US05110977
2-(N,N-Dimethylamino)ethyl myristate
A solution of 91.35 g (0.40 mol) of myristic acid, 35.7 g (0.40 mol) of 2-dimethylaminoethanol, 0.5 g of p-toluenesulfonic acid and a suitable volume of toluene was heated at reflux for approximately 48 hours in a 1-neck 3 liter flask equipped with Dean-Stark trap and condenser. At the end of this time, 7.0 ml of water had collected in the trap. The solution was cooled, stirred with K2CO3, filtered and concentrated. The residue was distilled to give 75.0 g of product; bp=145°-50° C/0.050 mm.

reactant | myristic acid | 0.40 mol, 91.35 g | C(CCCCCCCCCCCCC)(=O)O | C14H28O2
reactant | 2-dimethylaminoethanol | 0.40 mol, 35.7 g | CN(CCO)C | C4H11NO
catalyst | p-toluenesulfonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(N,N-Dimethylamino)ethyl myristate | 75.0 g | C(CCCCCCCCCCCCC)(=O)OCCN(C)C | C18H37NO2
